Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
___ Complaint:
PEA arrest
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ admitted after PEA arrest. Per EMS report, patient found to 
be in PEA with unknown down time, received 3 rounds of CPR with 
ROSC, intubated in the field. Transferred to ___, where she 
received 500 mL IVF, right femoral CVL and alines placed and 
admitted to the MICU. Labs, microbiology and imaging reviewed.  
WBC 16, hb 13.5, plt 137, INR 3, fibrinogen 141, ___, 
lactate 17, ical 0.97, UA WBC 3, Cr 1.8, K 5.7, plt 144, AST/ALT 
6330/4153, Tbili 3.1, NCHCT with no acute intracranial process.  
CXR with ETT and OGT in place, blunting of right CP angle.  Exam 
notable for pinpoint pupils off all sedative analgesia, cold 
extremities, distended abdomen with bladder pressure of 24, 
airway pressure of 50 with Pplat of 40. 

 
Past Medical History:
None reported per family. 
 
Social History:
___
Family History:
Unable to obtain
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS: reviewed in Metavision 
GENERAL: intubated, sedated  
HEENT: Sclera anicteric
LUNGS: upper airway rhochi, mild expiratory wheezing in anterior 
fields  
CV: rrr
ABD: distended, firm, no bowel sounds
EXT: cool  
NEURO: does not react to painful stimuli, pupils 2mm and 
non-reactive

DISCHARGE PHYSICAL EXAM: Deceased. 

 
Pertinent Results:
___ 04:48PM BLOOD WBC-9.3 RBC-5.59* Hgb-15.2 Hct-56.4* 
MCV-101* MCH-27.2 MCHC-27.0* RDW-19.1* RDWSD-68.0* Plt ___
___ 09:30PM BLOOD WBC-16.4* RBC-5.00 Hgb-13.5 Hct-49.1* 
MCV-98 MCH-27.0 MCHC-27.5* RDW-17.3* RDWSD-61.8* Plt ___
___ 04:48PM BLOOD ___ PTT-37.7* ___
___ 09:30PM BLOOD ___
___ 06:02PM BLOOD Glucose-44* UreaN-32* Creat-1.7* Na-141 
K-6.7* Cl-91* HCO3-15* AnGap-35*
___ 06:02PM BLOOD ALT-4153* AST-6330* AlkPhos-149* 
TotBili-3.1*
___ 06:02PM BLOOD Lipase-51
___ 09:30PM BLOOD CK-MB-17* MB Indx-2.1 cTropnT-0.10*
___ 06:02PM BLOOD Albumin-3.6 Calcium-8.4 Phos-12.6* 
Mg-2.7*
___ 06:02PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:07PM BLOOD Type-CENTRAL VE pO2-61* pCO2-72* pH-7.01* 
calTCO2-20* Base XS--14 Intubat-INTUBATED
___ 06:34PM BLOOD Type-ART Temp-35.9 pO2-225* pCO2-39 
pH-7.13* calTCO2-14* Base XS--15
___ 08:40PM BLOOD Type-ART Temp-35.1 Rates-28/ PEEP-5 
FiO2-30 pO2-86 pCO2-49* pH-7.07* calTCO2-15* Base XS--16 
Intubat-INTUBATED Vent-CONTROLLED
___ 09:35PM BLOOD Type-ART Temp-35 pO2-135* pCO2-56* 
pH-7.00* calTCO2-15* Base XS--18 Intubat-INTUBATED
___ 04:48PM BLOOD Lactate-17.1*
___ 07:30PM BLOOD Lactate-15.8* K-5.7*
___ 09:35PM BLOOD Glucose-197* Lactate-17.3*
___ 09:35PM BLOOD freeCa-0.97*
 
Brief Hospital Course:
___ F w no known PMH s/p cardiac arrest. She is intubated, 
sedated in ICU with severe electrolyte and acid/base 
abnormalities. Her lactate has been rising since admission, and 
together w her elevated bladder pressures and abdominal exam, 
very concerning for abdominal compartment syndrome. Likely 
infarcted her bowel during hypotension in MI. Neuro exam also 
extremely concerning, despite normal head CT. Discussed with 
family that we could consult surgery regarding her abdomen but 
that she was extremely unlikely to survive and recover to her 
prior level of functioning. Discussed that without surgery, if 
we continued supportive care, she would likely perforate her 
bowel and die from septic shock. Family (daughter, son-in-law), 
requested that she be made comfortable. Care was withdrawn and 
patient died shortly thereafter w family at bedside. 
 
Medications on Admission:
unable to obtain
 
Discharge Medications:
n/a
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
deceased
 
Discharge Condition:
deceased
 
Discharge Instructions:
deceased
 
Followup Instructions:
___